US05025025
A solution of 0.174 g of methyl 8-(p-chlorophenylsulfonamido)-4-(2-hydroxyethyl)octanoate in 2 mL methylene chloride is cooled to 0° C. and 0.1 mL of triethylamine is added followed by 0.042 mL of methanesulfonyl chloride. After 1 hour, the reaction is washed with saturated sodium bicaronate and the organic layer is dried, filtered and evaporated to yield methyl 8-(p-chlorophenylsulfonamido)-4-(2-methanesulfonyloxyethyl)-octanoate as an oil.

reactant | methyl 8-(p-chlorophenylsulfonamido)-4-(2-hydroxyethyl)octanoate | 0.174 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCO | C17H26ClNO5S
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.042 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 8-(p-chlorophenylsulfonamido)-4-(2-methanesulfonyloxyethyl)-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCOS(=O)(=O)C | C18H28ClNO7S2
